### PR TITLE
Metatheory of of Sigma types

### PR DESCRIPTION
**Pull request by jiangsy**

### CODE REVIEW

File: theories/Core/Semantic/PER/Definitions.v [hunk 1]
```diff
@@ -33,6 +33,16 @@ Arguments mk_rel_mod_app {_ _ _ _ _}.
 #[export]
 Hint Constructors rel_mod_app : mctt.
 
+(** Related modulo projection *)
+Variant rel_mod_proj a a' (R : relation domain) (R' : forall c c' (equiv_c_c' : {{ Dom c ≈ c' ∈ R }}), relation domain) : Prop := mk_rel_mod_proj :
```
[the remark this answers is not in the document]
Comment (Ailrun) [reply theories/Core/Semantic/PER/Definitions.v:37]: You mean `{}` does not work?

[the remark this answers is not in the document]
Comment (jiangsy) [reply theories/Core/Semantic/PER/Definitions.v:37]: actually just in this defininiton. I cannot write `Dom c ≈ c' ∈ (R' equiv_b_b' )`

File: theories/Core/Completeness/PairCases.v [hunk 2]
```diff
@@ -0,0 +1,456 @@
...
+    {{ Γ ⊨ M ≈ M' : Σ A B }} ->
+    exists env_rel,
+      {{ EF Γ ≈ Γ ∈ per_ctx_env ↘ env_rel }} /\
+        exists i,
+        forall ρ ρ' (equiv_ρ_ρ' : {{ Dom ρ ≈ ρ' ∈ env_rel }}),
+        exists fst_rel snd_rel,
+          rel_typ i A ρ A ρ' fst_rel /\
+            (forall c c' (equiv_c_c' : {{ Dom c ≈ c' ∈ fst_rel }}), rel_typ i B d{{{ ρ ↦ c }}} B d{{{ ρ' ↦ c' }}} (snd_rel c c' equiv_c_c')) /\
+            rel_exp M ρ M' ρ'
+              (fun b b' => rel_mod_proj b b' fst_rel (fun c c' => snd_rel c c') ).
```
Comment (Ailrun) [inline theories/Core/Completeness/PairCases.v:18]: Do we need to eta-expand `snd_rel` here?

File: theories/Core/Completeness/PairCases.v [hunk 3]
```diff
@@ -0,0 +1,456 @@
...
+Qed.
+
+Lemma rel_exp_of_sigma : forall {Γ env_rel M M' i j A B},
+    {{ EF Γ ≈ Γ ∈ per_ctx_env ↘ env_rel }} ->
+	(forall ρ ρ' (equiv_ρ_ρ' : {{ Dom ρ ≈ ρ' ∈ env_rel }}),
+      exists fst_rel snd_rel,
+        rel_typ i A ρ A ρ' fst_rel /\
+          (forall c c' (equiv_c_c' : {{ Dom c ≈ c' ∈ fst_rel }}), rel_typ j B d{{{ ρ ↦ c }}} B d{{{ ρ' ↦ c' }}} (snd_rel c c' equiv_c_c')) /\
+          rel_exp M ρ M' ρ'
+            (fun b b' => rel_mod_proj b b' fst_rel (fun c c' => snd_rel c c') )) ->
```
Comment (Ailrun) [inline theories/Core/Completeness/PairCases.v:37]: Likewise for this `snd_rel`

File: theories/Core/Completeness/PairCases.v [hunk 4]
```diff
@@ -0,0 +1,456 @@
...
+    intros.
+    extract_output_info_with ρσ c ρ'σ' c' (cons_per_ctx_env env_relΔ elem_relA)...
+  - solve_refl.
+Qed.
+
+#[export]
+Hint Resolve rel_exp_sigma_sub : mctt.
+
+Lemma rel_exp_pair_cong : forall {i Γ A A' B B' M N M' N'},
+    {{ Γ ⊨ A ≈ A' : Type@i }} ->
```
Comment (Ailrun) [inline theories/Core/Completeness/PairCases.v:127]: Why do we need `A'` here? Seemingly useless?

File: theories/Core/Completeness/PairCases.v [hunk 5]
```diff
@@ -0,0 +1,456 @@
...
+  destruct_all.
+  eexists_rel_exp.
+  intros.
+  (on_all_hyp: destruct_rel_by_assumption env_relΓ).
+  handle_per_ctx_env_irrel.
+  assert {{ Dom ρ'σ' ≈ ρ'σ' ∈ env_relΔ }} by (etransitivity; [symmetry |]; eassumption).
+  (on_all_hyp: destruct_rel_by_assumption env_relΔ).
+  destruct_rel_typ.
+  simplify_evals.
+  simplify_evals.
```
Comment (Ailrun) [inline theories/Core/Completeness/PairCases.v:270]: Do this repeated `simplify_evals`s have any effect? I thought that the tactic is idempotent

File: theories/Core/Completeness/PairCases.v [hunk 6]
```diff
@@ -0,0 +1,456 @@
...
+    destruct_all.
+    eexists_rel_exp.
+    intros.
+    (on_all_hyp: destruct_rel_by_assumption env_relΓ).
+    handle_per_ctx_env_irrel.
+    assert {{ Dom ρ'σ' ≈ ρ'σ' ∈ env_relΔ }} by (etransitivity; [symmetry |]; eassumption).
+    (on_all_hyp: destruct_rel_by_assumption env_relΔ).
+    destruct_rel_typ.
+    simplify_evals.
+    simplify_evals.
```
Comment (Ailrun) [inline theories/Core/Completeness/PairCases.v:361]: Likewise for this

**Review by Ailrun — COMMENTED** [review]
Some comments

**Comment by jiangsy** [comment]
should be good now

**Comment by jiangsy** [comment]
I don't feel that way, but sure I will update it

**Comment by Ailrun** [comment]
> I did't feel that way, but sure I will update it

I mean, it merely add one or more `destruct <some specific name>`, but one needs to use such a specific name more often because of the outdated tactic.

**Comment by jiangsy** [comment]
updated

**Review by Ailrun — APPROVED** [review]
LGTM.
